US04156723
A. trans-1,2,3,4-Tetrahydro-3-[2-dimethylamino2-oxoethyl]-2-naphthalenol
A mixture of 18.8 (0.10 mol) of trans-3a, 4,9,9a-tetrahydronaphtho[2,3-b]furan-2(3H)-one, 35 ml of anhydrous dimethylamine, and 35 ml of dry THF is heated in a small Parr bomb at 100° for 3 days. The cooled reaction mixture is then taken to dryness in vacuo, and the residue triturated with ether to give 22.5 g (97%) of crystalline solid after drying in vacuo.

reactant | trans-3a, 4,9,9a-tetrahydronaphtho[2,3-b]furan-2(3H)-one | O1[C@H]2[C@H](CC1=O)CC1=CC=CC=C1C2 | C12H12O2
reactant | dimethylamine | 35 ml | CNC | C2H7N
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | trans-1,2,3,4-Tetrahydro-3-[2-dimethylamino2-oxoethyl]-2-naphthalenol | 22.5 g, 97% | CN(C(C[C@H]1[C@@H](CC2=CC=CC=C2C1)O)=O)C | C14H19NO2
